US08349880B2
Step AZ (1): 2-(4-(Difluoromethoxy)phenyl)acetic acid (5.0 g, 24.8 mmol) was deprotonated with NaHMDS (2.0 M in THF, 24.7 mL, 49.5 mmol) and reacted with 1-chloro-4-iodobutane (3.03 g, 24.7 mmol) using a procedure analogous to Step AC (1) to afford after purification by silica gel column chromatography (0-70% EtOAc/hexane), 6-chloro-2-(4-(difluoromethoxy)phenyl)hexanoic acid (1.13 g, 3.86 mmol, 15.61% yield) as a pale-yellow oil. LC-MS (M−H)− 291.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.30 (d, J=8.9 Hz, 2 H), 7.08 (d, J=8.5 Hz, 2 H), 6.29-6.66 (m, 1 H), 3.54 (t, J=7.6 Hz, 1 H), 3.49 (t, J=6.6 Hz, 2 H), 2.04-2.13 (m, 1 H), 1.72-1.82 (m, 3 H), 1.32-1.51 (m, 2 H).

reactant | 2-(4-(Difluoromethoxy)phenyl)acetic acid | 24.8 mmol, 5.0 g | FC(OC1=CC=C(C=C1)CC(=O)O)F | C9H8F2O3
reactant | NaHMDS | 49.5 mmol, 2.0 M, 24.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-chloro-4-iodobutane | 24.7 mmol, 3.03 g | ClCCCCI | C4H8ClI
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 6-chloro-2-(4-(difluoromethoxy)phenyl)hexanoic acid | 3.86 mmol, 1.13 g, 15.61% yield | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OC(F)F | C13H15ClF2O3
